US05500408
In ether, 0.5 g of 3-(2,6-dichlorophenyl)-4-hydroxy-1,2,5-thiadiazole and 0.18 g of pyridine were dissolved and 0.23 g of acetic anhydride was added thereto. The mixture was stirred for 3 hours at room temperature. The reaction mixture was poured into water and extracted with ether. The ether layer was washed twice with aqueous dilute sodium hydroxide solution, twice with water and twice with aqueous saturated sodium chloride solution. The resultant was dried over anhydrous sodium sulfate and concentrated, followed by silica gel column chromatography to obtain 0.41 g of 4-(2,6-dichlorophenyl)-1,2,5-thiadiazol-3-yl acetate.

reactant | 3-(2,6-dichlorophenyl)-4-hydroxy-1,2,5-thiadiazole | 0.5 g | ClC1=C(C(=CC=C1)Cl)C1=NSN=C1O | C8H4Cl2N2OS
reactant | pyridine | 0.18 g | N1=CC=CC=C1 | C5H5N
reactant | acetic anhydride | 0.23 g | C(C)(=O)OC(C)=O | C4H6O3
reactant | water | O | H2O
solvent | ether | CCOCC | C4H10O
product | 4-(2,6-dichlorophenyl)-1,2,5-thiadiazol-3-yl acetate | 0.41 g | C(C)(=O)OC1=NSN=C1C1=C(C=CC=C1Cl)Cl | C10H6Cl2N2O2S
